US05030270
Ethyl β-methylaminoethyl sulfone
Gaseous methylamine is passed to saturation (about 30 min) into a solution of 15.7 g of chloroethyl ethyl sulfone in 100 ml of toluene at an internal temperature of 50° C. The mixture is stirred at 50° C. for 3 h, the precipitate is filtered off with suction, and the filtrate is concentrated in a rotary evaporator. The remaining yellow mobile liquid (12.3 g) is reacted without further purification.

reactant | methylamine | CN | CH5N
reactant | chloroethyl ethyl sulfone | 15.7 g | C(C)S(=O)(=O)CCCl | C4H9ClO2S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl β-methylaminoethyl sulfone | CNCCS(=O)(=O)CC | C5H13NO2S
